US04859684
A mixture of 3.6 parts of 4-[1-(1H-imidazol-1-yl)ethyl]-1,2-benzenediamine, 5 parts of trifluoroacetic acid and 100 parts of a hydrochloric acid solution 4N was stirred for 6 hours at reflux temperature. The reaction mixture was concentrated and the concentrate was dissolved in 50 parts of water. The mixture was made alkaline with sodium hydrogen carbonate and the product was extracted with dichloromethane. The extract was dried, filtered and concentrated. The concentrate was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (97.5:2.5 by volume) as eluent. The pure fractions were collected and the eluent was concentrated. The concentrate was crystallized from 20 parts of ethyl acetate. The product was filtered off and dried, yielding 3.4 parts (69.3%) of 5-[1-(1H-imidazol-1-yl)ethyl]-2-(trifluoromethyl)-1-H-benzimidazole; mp. 164.6° C. (compound 64).

reactant | 4-[1-(1H-imidazol-1-yl)ethyl]-1,2-benzenediamine | N1(C=NC=C1)C(C)C=1C=C(C(=CC1)N)N | C11H14N4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrochloric acid | 4N | Cl | ClH
product | 5-[1-(1H-imidazol-1-yl)ethyl]-2-(trifluoromethyl)-1-H-benzimidazole | 69.3% | N1(C=NC=C1)C(C)C1=CC2=C(NC(=N2)C(F)(F)F)C=C1 | C13H11F3N4
